US07514450B2
(±)5-(4-Amino-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide free base
A mixture of 5-(4-nitro-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide (5.0 g, 14.6 mmol), palladium on carbon (0.5 g, 10%) and ethanol (250 ml) was stirred under hydrogen atmosphere for 2 hours. The palladium was filtered off on celite. The crude mixture was purified by silica gel chromatography, using a mixture of dichloromethane:methanol (9:1) and 1% methanol as eluent. Yield 2.5 g (55%). M.p. 103-113° C.

reactant | 5-(4-nitro-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide | 14.6 mmol, 5.0 g | N12CC(C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC=C(C=C2)[N+](=O)[O-] | C18H19N3O4
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | (±)5-(4-Amino-phenyl)-furan-2-carboxylic acid(1-aza-bicyclo[2.2.2]oct-3-yl)-amide | N12CC(C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC=C(C=C2)N | C18H21N3O2
